US05886044
a) Preparation of 4-nitro-3-hydroxybenzophenone
3-Hydroxybenzophenone (3.00 g, 15.1 mmol) was dissolved in methylene chloride(40 mL) followed by the addition of sodium nitrate (1.42 g, 16.7 mmol). The addition of sulfuric acid (25 mL/3M) was then made, followed by addition of a catalytic amount of sodium nitrite. The mixture was allowed to stir. After 24 hours, the reaction mixture was diluted with methylene chloride and extracted with water. The organic layer was dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (4% MeOH/CH2Cl2) gave the desired product(1.10 g, 30%). 1H NMR (CD3COCD3): δ 8.25 (d, 1H), 7.86 (d, 1H), 7.71 (m, 1H), 7.59 (d, 1H), 7.48 (s, 1H), 7.39 (dd, 1H).

reactant | 3-Hydroxybenzophenone | 15.1 mmol, 3.00 g | OC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H10O2
reactant | sodium nitrate | 16.7 mmol, 1.42 g | [N+](=O)([O-])[O-].[Na+]
reactant | sulfuric acid | 3M, 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-nitro-3-hydroxybenzophenone | 1.10 g, 30% | [N+](=O)([O-])C1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)O | C13H9NO4
